US04829075
1-Naphthyl 1-(1, 2, 4-triazol-1-yl)cyclopropyl ketone
20.7 g (0.1 mol) of (1, 2, 4-triazol-1-yl)-methyl 1-naphthyl ketone in 100 ml of dichloroethane, 0.3 g of benzyltriethyl-ammonium chloride and 27 ml of 50% strength sodium hydroxide solution were placed in a reaction flask, and, under reflux, 20.7 g (0.11 mol) of 1, 2-dibromoethane were added dropwise over 15 minutes. The mixture was refluxed for a further 5 hours, cooled, diluted with water and extracted with di-chloroethane. After drying and removing the solvent, 10.6 g (45% of theory) of the title compound were obtained as an oil.

reactant | (1, 2, 4-triazol-1-yl)-methyl 1-naphthyl ketone | 0.1 mol, 20.7 g | C1(=CC=CC2=CC=CC=C12)C(=O)CN1N=CN=C1 | C14H11N3O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1, 2-dibromoethane | 0.11 mol, 20.7 g | BrCCBr | C2H4Br2
solvent | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
catalyst | benzyltriethyl-ammonium chloride | 0.3 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | O | H2O
product | 1-Naphthyl 1-(1, 2, 4-triazol-1-yl)cyclopropyl ketone | N1(N=CN=C1)C1(CC1)C(=O)C1=CC=CC2=CC=CC=C12 | C16H13N3O
